US07618975B2
(2-Methylthio-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
A mixture of (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (150 mg, 0.5 mmol), sodium methanethiolate (105 mg, 1.5 mmol) in 5 mL of solvent (THF:MeOH:water=3:1:1) was stirred at 70° C. for 4 h. The reaction mixture was diluted with 30 mL of ethyl acetate and it was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude product was purified by chromatography on silica gel with acetate and hexane (1:5) as eluent, yielding 11 mg of title compound (7%). 1H NMR (CDCl3): 7.65 (d, J=8.4 Hz, 1H), 7.51-7.45 (m, 1H), 7.14-7.10 (m, 2H), 6.93-6.89 (m, 4H), 3.84 (s, 3H), 3.58 (s, 3H), 2.67 (s, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.5 mmol, 150 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | sodium methanethiolate | 1.5 mmol, 105 mg | C[S-].[Na+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (2-Methylthio-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 11 mg, 7% | CSC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C17H17N3OS
